US07166603B2
183C: 4-(2-Azido-ethoxymethyl)-6-(2-chloro-phenyl)-2-methoxy-1,6-dihydro-pyrimidine-5-carboxylic acid ethyl ester
A mixture of 2-[2-(2-azido-ethoxy)-acetyl]-3-(2-chloro-phenyl)-acrylic acid ethyl ester (1.50 g, 4.44 mmol), O-methylisourea sulfate (0.82 g, 6.66 mmol) and sodium bicarbonate (1.5 g, 17.86 mmol) in N,N-dimethylacetamide (25 mL) was heated to 80° C. and maintained at this temperature overnight (ca. 15 h). The mixture was cooled to RT and then taken up in EtOAc (100 mL) and H2O (50 mL). The EtOAc extract was washed with brine (50 mL), dried (Na2SO4), filtered, concentrated and dried in vacuo. The crude product was purified by chromatography using the ISCO Combiflash SQ16× (120 g Redisep silica gel column, 0 to 60% EtOAc in hexanes for 30 min at 40 mL/min) to afford 1.189 g (68% for 2 steps) of white solid as a purified product.

reactant | 2-[2-(2-azido-ethoxy)-acetyl]-3-(2-chloro-phenyl)-acrylic acid ethyl ester | 4.44 mmol, 1.50 g | C(C)OC(C(=CC1=C(C=CC=C1)Cl)C(COCCN=[N+]=[N-])=O)=O | C15H16ClN3O4
reactant | O-methylisourea sulfate | 6.66 mmol, 0.82 g | S(=O)(=O)(O)O.COC(N)=N
reactant | sodium bicarbonate | 17.86 mmol, 1.5 g | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylacetamide | 25 mL | CN(C(C)=O)C | C4H9NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 50 mL | O | H2O
product | 4-(2-Azido-ethoxymethyl)-6-(2-chloro-phenyl)-2-methoxy-1,6-dihydro-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(NC1C1=C(C=CC=C1)Cl)OC)COCCN=[N+]=[N-] | C17H20ClN5O4
